US07498337B2
1-[(1,2-dimethyl-1H-imidazol-4-yl)sulfonyl]-4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde
By a reaction under similar conditions as in Reference Example 65 and using 4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde (185 mg), sodium hydride (60% in oil, 60 mg), 15-crown-5 (0.30 mL) and (1,2-dimethyl-1H-imidazol-4-yl)sulfonyl chloride (253 mg), the title compound was obtained as a colorless solid (yield 294 mg, 86%).

reactant | 4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde | 185 mg | CC=1C(=CNC1C1=CC=CC=C1)C=O | C12H11NO
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | 15-crown-5 | 0.30 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | (1,2-dimethyl-1H-imidazol-4-yl)sulfonyl chloride | 253 mg | CN1C(=NC(=C1)S(=O)(=O)Cl)C | C5H7ClN2O2S
product | 1-[(1,2-dimethyl-1H-imidazol-4-yl)sulfonyl]-4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde | CN1C(=NC(=C1)S(=O)(=O)N1C=C(C(=C1C1=CC=CC=C1)C)C=O)C | C17H17N3O3S
